US04141899
3-Methyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (386/1276)
A solution of 1 g of 3-methyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine and 1 g of methyl isothiocyanate in 10 ml of acetonitrile is refluxed for 4 h. The solution is cooled and filtered: 0.9 g of 3-methyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine, m.p. 235°, are collected.

reactant | 3-methyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | 1 g | CN1C=NC2=C1CNCC2 | C7H11N3
reactant | methyl isothiocyanate | 1 g | CN=C=S | C2H3NS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-Methyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | CN1C=NC2=C1CN(CC2)C(NC)=S | C9H14N4S
